US06333339B1
A mixture of methyl 3-[4-(3-benzylpiperidin-1-yl)butyl]indole-5-carboxylate and KOH is heated under reflux in ethanol. After customary work-up, 3-[4-(3-benzylpiperidin-1-yl)butyl]-5-carboxyindole, hydrate, m.p. 144-147°, is obtained.

reactant | methyl 3-[4-(3-benzylpiperidin-1-yl)butyl]indole-5-carboxylate | C(C1=CC=CC=C1)C1CN(CCC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)OC | C26H32N2O2
reactant | KOH | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(3-benzylpiperidin-1-yl)butyl]-5-carboxyindole, hydrate | O.C(C1=CC=CC=C1)C1CN(CCC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)O | InChI=1S/C25H30N2O2.H2O/c28-25(29)21-11-12-24-23(16-21)22(17-26-24)10-4-5-13-27-14-6-9-20(18-27)15-19-7-2-1-3-8-19;/h1-3,7-8,11-12,16-17,20,26H,4-6,9-10,13-15,18H2,(H,28,29);1H2
